US04960770
To a solution of 28 g of 2-amino-3-(4-methoxybenzoyl)-5-hexylthiophene in 150 ml of chloroform is added 10 g of chloroacetyl chloride and the mixture is refluxed under heating with stirring for 2 hours. After cooling, the mixture is washed with 5% aqueous sodium hydrogencarbonate solution and sodium chloride solution, and dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure and the residue is crystallized from ethanol to give 16.2 g of 2-chloroacetamido-3-(4-methoxybenzoyl)-5-hexylthiophene as crystals.

reactant | 2-amino-3-(4-methoxybenzoyl)-5-hexylthiophene | 28 g | NC=1SC(=CC1C(C1=CC=C(C=C1)OC)=O)CCCCCC | C18H23NO2S
reactant | chloroacetyl chloride | 10 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloroacetamido-3-(4-methoxybenzoyl)-5-hexylthiophene | 16.2 g | ClCC(=O)NC=1SC(=CC1C(C1=CC=C(C=C1)OC)=O)CCCCCC | C20H24ClNO3S
